US07297704B2
1,3,4,9-Tetrahydrospiro[carbazole-2,2′-[1,3]dioxolane]
The title compound was prepared essentially according to published procedures (R. F. Borch et al., J. Org. Chem. 38 (15), 2729 (1973); Nader G. et al., French Patent 2729141 (1996)). A mixture of cyclohexane-2,3-dione monophenylhydrazone (10.1 g, 0.05 mol), diethylene glycol (25 mL) and para-toluene sulfonic acid monohydrate (11.4 g, 0.06 mol) in toluene (500 mL) was heated under nitrogen in an oil bath kept at 135° C. with water removal (Dean-Stark). After heating for 15 hours the mixture was cooled, the toluene was decanted and the tarry residue extracted three times with small portions of toluene. The combined organic phase was washed three times with saturated aqueous sodium bicarbonate, and dried over anhydrous magnesium sulfate. Removal of the solvent provided the crude title compound as a brown oil that partially solidified in vacuo (9.2 g). It was used as such in the next step. MS (ES): [M+H]+ @m/z 230.1

reactant | cyclohexane-2,3-dione monophenylhydrazone | 0.05 mol, 10.1 g | C1(=CC=CC=C1)NN=C1CCCCC1=O | C12H14N2O
reactant | diethylene glycol | 25 mL | C(COCCO)O | C4H10O3
reactant | para-toluene sulfonic acid monohydrate | 0.06 mol, 11.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 1,3,4,9-Tetrahydrospiro[carbazole-2,2′-[1,3]dioxolane] | O1C2(OCC1)CC=1NC3=CC=CC=C3C1CC2 | C14H15NO2
